US03975537
To a solution of the Grignard reagent prepared from 4.27 g. (0.14 g.-atom) of magnesium turnings and 31.0 g. (0.13 mol.) of 4-iodoanisole in 50 ml. of ether was added dropwise a solution of 10.0 g. (0.07 mol.) of 3-cyanobenzofuran in 150 ml. of ether. The reaction mixture was stirred at 25° for 17 hours, then 30 ml. of water was added followed by a mixture of 20 ml. of sulfuric acid and 40 ml. of water. Additional amounts of the acid solution were added to dissolve the precipitate that formed in the reaction mixture. The mixture was poured into 500 ml. of water and the aqueous solution was extracted with chloroform. The extracts were dried (MgSO4) and concentrated in vacuo to give 3-(4'-methoxybenzoyl)benzofuran which was purified by chromatography on alumina with chloroform, m.p. 89°-90° (hexane-benzene).

reactant | magnesium | 0.14 g | [Mg] | Mg
reactant | 4-iodoanisole | 0.13 mol | IC1=CC=C(C=C1)OC | C7H7IO
reactant | 3-cyanobenzofuran | 0.07 mol | C(#N)C1=COC2=C1C=CC=C2 | C9H5NO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 3-(4'-methoxybenzoyl)benzofuran | COC1=CC=C(C(=O)C2=COC3=C2C=CC=C3)C=C1 | C16H12O3
